US05110956
[{1-(6-Methyl-1,3-benzodioxol-5-yl)ethyl}thio]acetic acid
3.7 g of mercaptoacetic acid and a catalytic amount of D-10-camphorsulfonic acid were added to 3.2 g of 1-(6-methyl-1,3-benzodioxol-5-yl)ethanol and the mixture was heated under reflux in 100 ml of benzene for 1 h. The reaction mixture was washed with water and then extracted with a 1 1Nsodium hydroxide solution. The aqueous layer was washed with ethyl acetate, acidified with 1Nhydrochloric acid and extracted with chloroform. The organic layer was dried over magnesium sulfate and the solvent was distilled off to obtain a crystalline residue. After recrystallization from diisopropyl ether, 4.2 g of the intended compound was obtained in the form of white crystals.

reactant | mercaptoacetic acid | 3.7 g | SCC(=O)O | C2H4O2S
reactant | D-10-camphorsulfonic acid | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | 1-(6-methyl-1,3-benzodioxol-5-yl)ethanol | 3.2 g | CC=1C(=CC2=C(OCO2)C1)C(C)O | C10H12O3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | [{1-(6-Methyl-1,3-benzodioxol-5-yl)ethyl}thio]acetic acid | 4.2 g | CC=1C(=CC2=C(OCO2)C1)C(C)SCC(=O)O | C12H14O4S
